US06489344B1
Preparation of ethyl 2-(2,4-dichlorophenyl)-6-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyridine-3-carboxylate
Ethyl 2-(2,4-dichlorophenyl)-6-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyridine-3-carboxylate was prepared from ethyl 3-(2,4-dichlorophenyl)-3-oxopropanoate (ref. Wemple, J.; et. al. Synthesis 1993, 290-292.) as the starting material and THF/ethanol ratio of 3:1 as the solvent in the first step. The oxidation uses DDQ. The final product is achieved directly from the chloropyridine by reacting ethyl 6-chloro-2-phenylpyridine-3-carboxylate with 2-(2-aminoethylamine)-5-nitropyridine in CH3CN and Hüing's Hüing's base at 120° C. for 18 hours. The procedures are analogous to the general method for {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-imidazolyl(2-pyridyl)]amine.

reactant | ethyl 3-(2,4-dichlorophenyl)-3-oxopropanoate | ClC1=C(C=CC(=C1)Cl)C(CC(=O)OCC)=O | C11H10Cl2O3
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | ethyl 6-chloro-2-phenylpyridine-3-carboxylate | ClC1=CC=C(C(=N1)C1=CC=CC=C1)C(=O)OCC | C14H12ClNO2
reactant | {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-imidazolyl(2-pyridyl)]amine | NC1=C(C=CC(=N1)NCCNC1=NC(=C(C=C1)C=1NC=CN1)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C21H18Cl2N8O2
solvent | CH3CN | CC#N | C2H3N
solvent | THF ethanol | C1CCOC1.C(C)O
product | ethyl 2-(2,4-dichlorophenyl)-6-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyridine-3-carboxylate | ClC1=C(C=CC(=C1)Cl)C1=NC(=CC=C1C(=O)OCC)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C21H19Cl2N5O4
